US07964625B2
100 mmol m-toluidine and 50 mmol diethyl malonate were put together and stirred overnight at 170° C. The formed ethanol was distilled off directly (100 mmol≡6.6 mL) on a stream of nitrogen. N1,N3-di(3-methylphenyl)malonamide was formed as one solid block. The reaction was cooled and EtOAc was added. The product had to be crushed with a mortar, because it resembled very hard brick. The crushed material was stirred in EtOAc and filtered. EtOAc added was added twice and the mixture was stirred and filtered each time. 9.5 g N1,N3-di(3-methylphenyl)malonamide (yield 67.3%, purity 97.2%) was obtained.

reactant | m-toluidine | 100 mmol | NC1=CC(=CC=C1)C | C7H9N
reactant | diethyl malonate | 50 mmol | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | N1,N3-di(3-methylphenyl)malonamide | CC=1C=C(C=CC1)NC(CC(=O)NC1=CC(=CC=C1)C)=O | C17H18N2O2
